US07855292B2
H. (2S,3R)-2-Azido-3-(3,4-dichloro-phenyl)-butyric acid methyl ester
To a solution of (2R,3R)-3-(3,4-dichloro-phenyl)-2-methanesulfonyloxy-butyric acid methyl ester (0.70 g, 2.05 mmol) in DMF (10 mL) was added NaN3 (0.27 g, 4.10 mmol). The reaction was heated at 55° C. overnight. The mixture was quenched with water and extracted with EtOAc. The organic phase was washed with water (2×), dried (MgSO4), and concentrated. The product was purified by flash chromatography to give 0.42 g (71%) of product. 1H NMR (500 MHz, CDCl3): 7.39 (d, J=8.3, 1H), 7.35 (d, J=2.1, 1H), 7.10 (dd, J=8.3, 2.1, 1H), 3.96 (d, J=6.4, 1H), 3.71 (s, 3H), 3.29 (m, 1H), 1.33 (d, J=7.0, 3H).

reactant | (2R,3R)-3-(3,4-dichloro-phenyl)-2-methanesulfonyloxy-butyric acid methyl ester | 2.05 mmol, 0.70 g | COC([C@@H]([C@H](C)C1=CC(=C(C=C1)Cl)Cl)OS(=O)(=O)C)=O | C12H14Cl2O5S
reactant | NaN3 | 4.10 mmol, 0.27 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2S,3R)-2-Azido-3-(3,4-dichloro-phenyl)-butyric acid methyl ester | 0.42 g, 71% | COC([C@H]([C@H](C)C1=CC(=C(C=C1)Cl)Cl)N=[N+]=[N-])=O | C11H11Cl2N3O2
